US06143402
C.I. Pigment Yellow 12:
The pigment suspension was prepared similarly to C.I. Pigment Yellow 13 by coupling of 28 g of tetrazotized 3,3'-dichlorobenzidene with 41.1 g of acetoacetanilide.

reactant | C.I. Pigment Yellow 13 | CC1=CC(=C(C=C1)NC(=O)C(C(=O)C)N=NC2=C(C=C(C=C2)C3=CC(=C(C=C3)N=NC(C(=O)C)C(=O)NC4=C(C=C(C=C4)C)C)Cl)Cl)C | C36H34Cl2N6O4
reactant | acetoacetanilide | 41.1 g | C(CC(=O)C)(=O)NC1=CC=CC=C1 | C10H11NO2
product | C.I. Pigment Yellow 12 | CC(=O)C(C(=O)NC1=CC=CC=C1)N=NC2=C(C=C(C=C2)C3=CC(=C(C=C3)N=NC(C(=O)C)C(=O)NC4=CC=CC=C4)Cl)Cl | C32H26Cl2N6O4
